US04962203
Step 6. Preparation of 3-hydroxy-5-propyl-benzaldehyde
To a solution of sodium hydride (183 mg) and ethanethiol (0.6 ml) in DMF (15 ml) was added dropwise a solution of 3-methoxy-5-propyl-benzaldehyde (0.9 g). The reaction mixture was heated for 3 hours at 150°, quenched with NH4OAc buffer and extracted with ethyl ether. The ethyl ether layer was dried (Na2SO4) and evaporated. Flash chromatography of the residue using 30% ether in hexane afforded the title compound.

reactant | sodium hydride | 183 mg | [H-].[Na+]
reactant | ethanethiol | 0.6 ml | C(C)S | C2H6S
reactant | 3-methoxy-5-propyl-benzaldehyde | 0.9 g | COC=1C=C(C=O)C=C(C1)CCC | C11H14O2
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
product | 3-hydroxy-5-propyl-benzaldehyde | OC=1C=C(C=O)C=C(C1)CCC | C10H12O2
